US06884814B2
Step g) Acetone O-[5-methoxy-2-(4-methoxy-2,5-dipropylbenzoyl)phenyl]oxime.
To a suspension of potassium tert-butoxide (2.18 g, 19.4 mmol, heat-gunned under high vacuum) in THF (60 mL) was added acetone oxime (1.42 g, 19.4 mmol). The white slurry was stirred at room temperature for 1 h and then a solution of (2-fluoro-4-methoxyphenyl)(4-methoxy-2,5-dipropylphenyl)methanone (2.23 g, 6.47 mmol) in THF (10 mL ) was added. The mixture was stirred at 65° C. for 3 h and then quenched with a small amount of water. Most of the THF was removed in vacuo and extraction was performed in EtOAc (3×60 mL) with 50% saturated brine (50 mL). The crude product was employed in the ensuing cyclization. A portion of the crude product was subjected to preparative TLC (15% EtOAc/hexanes) to yield the title compound as a light green oil: 1H NMR (300 MHz, CDCl3) δ 0.87 (t, 3H, J=7.2 Hz), 0.92 (t, 3H, J=7.1 Hz), 1.42 (s, 3H), 1.48 (m, 2H), 1.60 (m, 2H), 1.89 (s, 3H), 2.46 (t, 2H, J=7.7 Hz), 2.77 (t, 2H, J=7.9 Hz), 3.85 (s, 3H), 3.87 (s, 3H), 6.59 (dd, 1H, J=8.6, 2.5 Hz), 6.68 (s, 1H), 7.08 (d, 1H, J=2.4 Hz), 7.13 (s, 1H), 7.55 (d, 1H, J=8.6 Hz); MS m/e 398 (M+H)+.

reactant | potassium tert-butoxide | 19.4 mmol, 2.18 g | CC(C)([O-])C.[K+]
reactant | acetone oxime | 19.4 mmol, 1.42 g | CC(C)=NO | C3H7NO
reactant | (2-fluoro-4-methoxyphenyl)(4-methoxy-2,5-dipropylphenyl)methanone | 6.47 mmol, 2.23 g | FC1=C(C=CC(=C1)OC)C(=O)C1=C(C=C(C(=C1)CCC)OC)CCC | C21H25FO3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Acetone O-[5-methoxy-2-(4-methoxy-2,5-dipropylbenzoyl)phenyl]oxime | COC=1C=CC(=C(C1)ON=C(C)C)C(C1=C(C=C(C(=C1)CCC)OC)CCC)=O | C24H31NO4
